US07361763B2
50 mg (80 μmol) of toluene-4-sulfonic acid 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-phenyl ester and 7 mg of [1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloride dichloromethane adduct were placed in a Smith® vial. 1 ml of acetonitrile, 1 ml of a 2 M aqueous solution of sodium carbonate and 16 μl of 2-bromo-1-methyl-1H-imidazole were added and the resulting mixture was irradiated in a Personal Chemistry microwave reactor to 165° C. for 20 min. The resulting mixture was diluted with 2 ml of DMSO and 1 ml of methanol and subsequently filtered over sodium sulfate and a 0.45 μm PTFE syringe filter. The filtrate is directly purified via mass-triggered reverse phase HPLC to afford 12 mg (41 μmol, 52% yield) of 4-[5-(1-methyl-1H-imidazol-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-phenol as a colorless solid. 1H-NMR (d6-DMSO): δ11.97 (s, 1H), 9.40 (s, 1H), 8.53 (d, J=2.0 Hz, 1H), 8.40 (d, J=1.4 Hz, 1H), 8.14 (s, 1H), 7.77 (d, J=2.4 Hz, 1H), 7.54 (d, J=8.3 Hz, 2H), 7.30 (s, 1H), 7.02 (s, 1H), 6.86 (d, J=8.7 Hz, 2H), 3.78 (s, 3H); MS: m/z 291 [MH+].

reactant | toluene-4-sulfonic acid 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-phenyl ester | 80 μmol, 50 mg | CC1(OB(OC1(C)C)C=1C=C2C(=NC1)N(C=C2C2=CC=C(C=C2)OS(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=C(C=C2)C)C | C33H33BN2O7S2
reactant | acetonitrile | 1 ml | C(C)#N | C2H3N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-1-methyl-1H-imidazole | 16 μl | BrC=1N(C=CN1)C | C4H5BrN2
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | methanol | 1 ml | CO | CH4O
product | 4-[5-(1-methyl-1H-imidazol-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-phenol | 41 μmol, 12 mg, 52% yield | CN1C(=NC=C1)C=1C=C2C(=NC1)NC=C2C2=CC=C(C=C2)O | C17H14N4O
